Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Angina
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization
coronary artery bypass grafting x 3 (left internal mammary 
artery grafted to the left anterior descending artery/ saphenous 
vein grafted to Obtuse Marginal/ Posterior descending artery) on 
___

 
History of Present Illness:
This is a ___ yo M w/ a history of CAD s/p MI and PCI ___ - 
___, HTN and athsma who presented w/ three to four months of 
dyspnea on exertion, now found on cardiac cath to have 3VD and 
awaiting CABG. 
The patient reports dyspnea on exertion for the past several 
months, mostly when he walks for several minutes and it resolves 
when he is at rest. He denies chest pain, palpitations or 
syncope. He also reports neck tightness and discomfort in his 
chest during these episodes. He presented to Dr. ___ on 
___, who suspected the patient was having recurrence of 
angina; given his risk factors of HTN and poor lipid control, 
likely 3VD or LAD disease, so the pt was referred for cardiac 
cath at ___. His EKG at that time showed sinus rhythm with 
underlying left atrial abnormality and prolonged PR interval at 
0.25 seconds. QRS axis is -20ยบ. There are QS complexes in leads 
III, aVF and a tall R-wave in lead V2 consistent with an old 
inferior-posterior wall myocardial infarction. Given his stable 
clinical status, he was not admitted at that time, but started 
on Imdur 30 to help control his symptoms.  

The pt underwent elective cardiac cathaterization w/ radial 
access on ___ which was significant for three vessel disease. 
The patient was subsequently referred for evaluation for CABG.   
 

On the floor he was chest pain free and did not report shortness 
of breath. He had no pain at his radial cath site. No 
complaints.  
Cardiac surgery was consulted for coronary artery 
revascularization.
 
Past Medical History:
-Hypertension, 
-Dyslipidemia  
- s/p PCI at ___ ___ years ago  
  
-Bronchitis 
-s/p bilateral cataract surgery
-s/p TURP
 

 
Social History:
___
Family History:
Notable for his brothers who have peripheral vascular disease, 
and his father who died from a heart attack at ___.
 
Physical Exam:
Admission Exam:
VS- 97.9 164/65 87 20 97% on Room O2 
GENERAL- WA, NAD AO x 3  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple w/ JVP 5-7cm above the RA 
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ systolic murmur. No thrills, lifts. 
No S3 or S4.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness. No abdominial bruits. 
 
EXTREMITIES- No c/c/e. No femoral bruits.  
SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.  
NEURO: A/Ox3. No focal defecits, CN II-XII intact, 
strength/sensation intact
 
Pertinent Results:
___ ECHOCARDIOGRAPHY REPORT
Left Ventricle - Ejection Fraction:  60% to 70%  >= 55%  
Findings  
LEFT ATRIUM: Normal LA size. Good (>20 cm/s) ___ ejection 
velocity. No thrombus in the ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. A catheter or 
pacing wire is seen in the RA and extending into the RV. No ASD 
by 2D or color Doppler. 
LEFT VENTRICLE: Normal LV wall thickness and cavity size. 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal ascending, transverse and descending thoracic 
aorta with no atherosclerotic plaque. Normal ascending aorta 
diameter. Normal aortic arch diameter. Normal descending aorta 
diameter. Simple atheroma in descending aorta. 
AORTIC VALVE: Three aortic valve leaflets. Mildly thickened 
aortic valve leaflets (3). No AS. Trace AR. 
MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Conclusions  
PRE-CPB: 1. The left atrium is normal in size. No thrombus is 
seen in the left atrial appendage. 
2. No atrial septal defect is seen by 2D or color Doppler. Some 
increased color flow was seen near the intraatrial septum that 
probably represents ivc flow. Dr ___ in to evaluate septum.
3. Left ventricular wall thicknesses and cavity size are normal.
4. Right ventricular chamber size and free wall motion are 
normal. 
5. The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque. There are 
simple atheroma in the descending thoracic aorta. 
6. There are three aortic valve leaflets. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. 
7. The mitral valve appears structurally normal with trivial 
mitral regurgitation. 
   
___ 06:05AM BLOOD WBC-16.3* RBC-3.36* Hgb-10.9* Hct-32.0* 
MCV-95 MCH-32.3* MCHC-33.9 RDW-14.2 Plt ___
___ 07:00AM BLOOD WBC-17.2* RBC-3.58* Hgb-11.4* Hct-34.4* 
MCV-96 MCH-31.8 MCHC-33.1 RDW-14.2 Plt ___
___ 02:27AM BLOOD WBC-12.9* RBC-3.22* Hgb-10.4* Hct-30.3* 
MCV-94 MCH-32.4* MCHC-34.4 RDW-14.2 Plt ___
___ 06:18PM BLOOD Hct-30.4*
___ 02:27AM BLOOD ___ PTT-30.5 ___
___ 12:33PM BLOOD ___ PTT-38.0* ___
___ 06:05AM BLOOD UreaN-18 Creat-1.2 Na-129* K-4.1 Cl-89*
___ 07:00AM BLOOD Glucose-137* UreaN-16 Creat-1.3* Na-130* 
K-4.2 Cl-92* HCO3-31 AnGap-11
___ 08:27AM BLOOD Na-135 K-4.2 Cl-103
___ 02:27AM BLOOD Glucose-121* UreaN-13 Creat-1.3* Na-137 
K-4.4 Cl-107 HCO3-24 AnGap-10
___ 08:05AM BLOOD WBC-12.7* RBC-3.53* Hgb-11.4* Hct-33.7* 
MCV-95 MCH-32.3* MCHC-33.9 RDW-13.8 Plt ___
___ 08:05AM BLOOD ___ PTT-27.2 ___
___ 08:05AM BLOOD Glucose-108* UreaN-23* Creat-1.3* Na-131* 
K-3.7 Cl-92* HCO3-28 AnGap-___ Mr. ___ was taken to the operating room and 
underwent coronary artery bypass grafting x 3 (left internal 
mammary artery grafted to the left anterior descending artery/ 
saphenous vein grafted to Obtuse Marginal/ Posterior descending 
artery) with Dr. ___. Please see operative report for further 
details. He tolerated the procedure well and was transferred to 
the CVICU intubated and sedated. He weaned off pressor support. 
He awoke neurologically intact and weaned to extubate. 
Beta-blocker/ASA/ Statin and diuresis were initiated. All lines 
and drains were discontinued per protocol. POD#1 he transferred 
to the step down unit for further monitoring. He developed afib 
and was started on amio and lopressor was incerased as 
tolerated. He had one episode of  bradycardia during his sleep 
therefore amio was lowered. He is being discharged on low dose 
amio taper in combination with lopressor. He was also started on 
coumadin for his post-op afib. His creat peaked at 1.3 where it 
still remains. He continues on low dose lasix for contined 
diuresis. He also remains hyponatremic wth a sodium of 131. He 
has been free water restricted. He will need a BMP checked in 
the next ___. He also had a rise in his WBC and was started on 
cipro for + UA but culture is pending. Physical Therapy was 
consulted for evaluation of strength and mobility. He continued 
to progress and on POD#5 he was cleared for discharge to home. 
All follow up appointments were advised.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Ipratropium Bromide MDI 2 PUFF IH QID 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
4. Lisinopril 40 mg PO BID 
5. Metoprolol Tartrate 50 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*1
2. Ipratropium Bromide MDI 2 PUFF IH QID 
3. Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate [Lopressor] 50 mg 1.5 (One and a half) 
tablet(s) by mouth three times a day Disp #*120 Tablet 
Refills:*1
4. Amiodarone 200 mg PO BID 
x 1 week ___ 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1
5. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Potassium Chloride 20 mEq PO Q12H Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tab by mouth twice a day Disp 
#*14 Tablet Refills:*0
9. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
10. ___  MD to order daily dose PO DAILY 
to be ordered daily 
RX *warfarin [Coumadin] 2 mg as directed tablet(s) by mouth once 
a day Disp #*90 Tablet Refills:*1
11. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0
12. Fluticasone Propionate 110mcg 2 PUFF IH BID 
13. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CAD 
CAD s/p stent ___ years ago at ___
Hypertension
Asthmatic bronchitis
Hard of Hearing
Past Surgical History:
Bilateral cataracts
TURP
Right ear surgery

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
Edema 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___